US06822074B1
A solution of 16.1 g of Z-DPhe-OH, 10 g of H-NMeVal-OMe hydrochloride and 10.1 ml of diisopropyl-ethylamine in 100 ml of dichloromethane is cooled to 0-5° and 11.35 g of EDCI are added. The mixture is first stirred-for one hour at 0-5°, then overnight at room temperature. The solvent is removed and the residue is taken up in MTBE and washed with Na2CO3 (5%), 1N HCl and water and dried. After removal of the solvent, Z-DPhe-NMeVal-OMe is obtained in a yield of 84.5%.

reactant | Z-DPhe-OH | 16.1 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | H-NMeVal-OMe hydrochloride | 10 g | N([C@@H](C(C)C)C(=O)OC)C.Cl
reactant | diisopropyl-ethylamine | 10.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCI | 11.35 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Z-DPhe-NMeVal-OMe | yield of 84.5% | N([C@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)OC)C)C(=O)OCC1=CC=CC=C1 | C24H30N2O5
